US05169867
N-(3-aminoxy-2-fluoropropyl)-methylamine dihydrochloride
4.8 g (25 mmol) of N-(3-aminoxy-2-hydroxypropyl)-methylamine dihydrochloride are dissolved at -78° in 80 g of liquid hydrogen fluoride in a Teflon autoclave. 5.6 g of sulfur tetrafluoride are introduced and the vessel is closed and left to stand for 24 hours at room temperature. After degassing, the residue is dissolved in 2N hydrochloric acid. This solution is filtered and the filtrate is neutralised, in portions, with solid sodium hydrogen carbonate; a solution of 13 g of di-tert-butyl dicarbonate in 50 ml of tetrahydrofuran is added and the mixture is left to stand for 1 hour. The reaction mixture is diluted with 200 ml of ether and the organic phase is separated off, washed with water, dried over magnesium sulfate, filtered and concentrated by evaporation. The oil that remains behind is chromatographed with a mixture of hexane:ethyl acetate 3:1 over 500 g of silica gel, yielding the starting compound in the form of a yellow oil, Rf value 0.18.

reactant | N-(3-aminoxy-2-hydroxypropyl)-methylamine dihydrochloride | 25 mmol, 4.8 g | Cl.Cl.O(N)CC(CNC)O
reactant | sulfur tetrafluoride | 5.6 g | S(F)(F)(F)F | F4S
solvent | hydrogen fluoride | F | FH
product | N-(3-aminoxy-2-fluoropropyl)-methylamine dihydrochloride | Cl.Cl.O(N)CC(CNC)F | InChI=1S/C4H11FN2O.2ClH/c1-7-2-4(5)3-8-6;;/h4,7H,2-3,6H2,1H3;2*1H
